US09388185B2
4-(2-(3,5-Dimethoxyphenethyl)-5H-pyrrolo[2,3-b]pyrazin-6-yl)-2-fluoro-N-methylbenzamide
The compound was prepared by using procedures analogous to those described for the synthesis of Example 53, Step 2 starting from 6-bromo-2-[2-(3,5-dimethoxyphenyl)ethyl]-5H-pyrrolo[2,3-b]pyrazine and 3-fluoro-4-(methylcarbamoyl)phenylboronic acid (from Combi-Blocks). LCMS calculated for C24H24FN4O3 (M+H)+: m/z=435.2. Found 435.2.

reactant | 6-bromo-2-[2-(3,5-dimethoxyphenyl)ethyl]-5H-pyrrolo[2,3-b]pyrazine | BrC1=CC=2C(=NC=C(N2)CCC2=CC(=CC(=C2)OC)OC)N1 | C16H16BrN3O2
reactant | 3-fluoro-4-(methylcarbamoyl)phenylboronic acid | FC=1C=C(C=CC1C(NC)=O)B(O)O | C8H9BFNO3
product | 4-(2-(3,5-Dimethoxyphenethyl)-5H-pyrrolo[2,3-b]pyrazin-6-yl)-2-fluoro-N-methylbenzamide | COC=1C=C(CCC=2N=C3C(=NC2)NC(=C3)C3=CC(=C(C(=O)NC)C=C3)F)C=C(C1)OC | C24H23FN4O3
